US07790714B2
(S)-2-({(S)-6-Benzoyl-3-[4-(4-chloro-3-trifluoromethyl-benzyloxy)-phenyl]-2-oxo-2,3,5,6,7,8-hexahydro-1H-4-oxa-1,6-diaza-anthracene-7-carbonyl}-amino)-3-(4′-cyano-biphenyl-4-yl)-propionic acid
(S)-7-[(S)-2-(4′-Cyano-biphenyl-4-yl)-1-methoxycarbonyl-ethylcarbamoyl]-3-(4-hydroxy-phenyl)-2-oxo-1,2,3,5,7,8-hexahydro-4-oxa-1,6-diaza-anthracene-6-carboxylic acid tert-butyl ester was converted to (S)-2-({(S)-3-[4-(4-chloro-3-trifluoromethyl-benzyloxy)-phenyl]-2-oxo-2,3,5,6,7,8-hexahydro-1H-4-oxa-1,6-diaza-anthracene-7-carbonyl}-amino)-3-(4′-cyano-biphenyl-4-yl)-propionic acid methyl ester hydrochloride following general procedure L. and C. Title compound was prepared from (S)-2-({(S)-3-[4-(4-chloro-3-trifluoromethyl-benzyloxy)-phenyl]-2-oxo-2,3,5,6,7,8-hexahydro-1H-4-oxa-1,6-diaza-anthracene-7-carbonyl}-amino)-3-(4′-cyano-biphenyl-4-yl)-propionic acid methyl ester hydrochloride (0.05 mmol) following the general procedure F and B. LC-MS (m/z): 886.

reactant | (S)-7-[(S)-2-(4′-Cyano-biphenyl-4-yl)-1-methoxycarbonyl-ethylcarbamoyl]-3-(4-hydroxy-phenyl)-2-oxo-1,2,3,5,7,8-hexahydro-4-oxa-1,6-diaza-anthracene-6-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC=2C=C3O[C@H](C(NC3=CC2CC1C(N[C@@H](CC1=CC=C(C=C1)C1=CC=C(C=C1)C#N)C(=O)OC)=O)=O)C1=CC=C(C=C1)O | C40H38N4O8
reactant | (S)-2-({(S)-3-[4-(4-chloro-3-trifluoromethyl-benzyloxy)-phenyl]-2-oxo-2,3,5,6,7,8-hexahydro-1H-4-oxa-1,6-diaza-anthracene-7-carbonyl}-amino)-3-(4′-cyano-biphenyl-4-yl)-propionic acid methyl ester hydrochloride | Cl.COC([C@H](CC1=CC=C(C=C1)C1=CC=C(C=C1)C#N)NC(=O)C1NCC=2C=C3O[C@H](C(NC3=CC2C1)=O)C1=CC=C(C=C1)OCC1=CC(=C(C=C1)Cl)C(F)(F)F)=O
reactant | (S)-2-({(S)-3-[4-(4-chloro-3-trifluoromethyl-benzyloxy)-phenyl]-2-oxo-2,3,5,6,7,8-hexahydro-1H-4-oxa-1,6-diaza-anthracene-7-carbonyl}-amino)-3-(4′-cyano-biphenyl-4-yl)-propionic acid methyl ester hydrochloride | 0.05 mmol | Cl.COC([C@H](CC1=CC=C(C=C1)C1=CC=C(C=C1)C#N)NC(=O)C1NCC=2C=C3O[C@H](C(NC3=CC2C1)=O)C1=CC=C(C=C1)OCC1=CC(=C(C=C1)Cl)C(F)(F)F)=O
product | (S)-2-({(S)-6-Benzoyl-3-[4-(4-chloro-3-trifluoromethyl-benzyloxy)-phenyl]-2-oxo-2,3,5,6,7,8-hexahydro-1H-4-oxa-1,6-diaza-anthracene-7-carbonyl}-amino)-3-(4′-cyano-biphenyl-4-yl)-propionic acid | C(C1=CC=CC=C1)(=O)N1CC=2C=C3O[C@H](C(NC3=CC2CC1C(=O)N[C@H](C(=O)O)CC1=CC=C(C=C1)C1=CC=C(C=C1)C#N)=O)C1=CC=C(C=C1)OCC1=CC(=C(C=C1)Cl)C(F)(F)F | C49H36ClF3N4O7
